* SPICE3 file created from NAND4.ext - technology: scmos
.include TSMC_180nm.txt
.param SUPPLY=1.8
.global gnd vdd
.param LAMBDA=0.09u
.param width_N=1.8u
.param width_P=2*width_N
.param L=2*LAMBDA

Va a gnd PULSE(0 1.8   0n 0n 0n   50n 100n)
Vb b gnd PULSE(0 1.8  10n 0n 0n   50n 100n)
Vc c gnd PULSE(0 1.8  20n 0n 0n   50n 100n)
Vd d gnd PULSE(0 1.8  30n 0n 0n   50n 100n)
VDD vdd gnd 1.8
.option scale=0.09u

M1000 a_13_n11# A out Gnd CMOSN w=80 l=2
+  ad=480 pd=172 as=400 ps=170
M1001 vdd B out w_0_81# CMOSP w=40 l=2
+  ad=640 pd=272 as=480 ps=184
M1002 a_29_n11# C a_21_n11# Gnd CMOSN w=80 l=2
+  ad=480 pd=172 as=480 ps=172
M1003 gnd D a_29_n11# Gnd CMOSN w=80 l=2
+  ad=400 pd=170 as=0 ps=0
M1004 out C vdd w_0_81# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1005 out A vdd w_0_81# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1006 vdd D out w_0_81# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1007 a_21_n11# B a_13_n11# Gnd CMOSN w=80 l=2
+  ad=0 pd=0 as=0 ps=0
C0 vdd D 0.10fF
C1 a_29_n11# a_21_n11# 0.82fF
C2 A w_0_81# 0.08fF
C3 out a_29_n11# 0.03fF
C4 A out 0.08fF
C5 C w_0_81# 0.08fF
C6 vdd w_0_81# 0.18fF
C7 D w_0_81# 0.08fF
C8 out C 0.08fF
C9 out vdd 1.70fF
C10 a_21_n11# a_13_n11# 0.82fF
C11 out a_13_n11# 0.85fF
C12 out a_21_n11# 0.03fF
C13 out w_0_81# 0.05fF
C14 A B 0.20fF
C15 B C 0.20fF
C16 B vdd 0.10fF
C17 B w_0_81# 0.08fF
C18 B out 0.08fF
C19 gnd a_29_n11# 0.87fF
C20 gnd a_13_n11# 0.04fF
C21 gnd a_21_n11# 0.04fF
C22 A vdd 0.10fF
C23 C vdd 0.10fF
C24 C D 0.20fF
C25 gnd Gnd 0.23fF
C26 a_29_n11# Gnd 0.01fF
C27 a_21_n11# Gnd 0.01fF
C28 a_13_n11# Gnd 0.01fF
C29 out Gnd 0.18fF
C30 vdd Gnd 0.10fF
C31 D Gnd 0.09fF
C32 C Gnd 0.09fF
C33 B Gnd 0.09fF
C34 A Gnd 0.09fF
C35 w_0_81# Gnd 2.51fF

.control

run
tran 0.1n 300n
set curplottitle="2024102057  4-input NAND Gate using CMOS"
plot v(a) v(b)+2 v(c)+4 v(d)+6 v(out)+8

.endc

.end